US07951824B2
Step 2: 5-Fluoro-6′-methyl-[3,4′]bipyridinyl-2′-carboxylic acid (5-chloro-pyridin-2-yl)-amide
The title compound, was prepared from 5-Fluoro-6′-methyl-[3,4′]bipyridinyl-2′-carboxylic acid ethyl ester in accordance with the general method of example 26, step 6 using 2-Amino-5-chloropyridine instead of 3-chloroaniline to yield the final compound as a white solid, MS (ISP): m/e=343.1, 345.0 (M+H)+.

reactant | 5-Fluoro-6′-methyl-[3,4′]bipyridinyl-2′-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC(=C1)C=1C=NC=C(C1)F)C | C14H13FN2O2
reactant | 2-Amino-5-chloropyridine | NC1=NC=C(C=C1)Cl | C5H5ClN2
product | 5-Fluoro-6′-methyl-[3,4′]bipyridinyl-2′-carboxylic acid (5-chloro-pyridin-2-yl)-amide | ClC=1C=CC(=NC1)NC(=O)C1=NC(=CC(=C1)C=1C=NC=C(C1)F)C | C17H12ClFN4O
